US03982019
A solution of 4-chloroaniline (64 grams; 0.5 mol) in toluene (100 ml) is placed into a suitable pressure vessel, and is cooled in an acetone-dry ice bath. Trifluoromethyl isocyanate (56 grams; 0.5 mol) is added thereto and the pressure vessel is sealed. The reaction mixture is allowed to warm up to room temperature and stand for a period of about 24 hours. After this time the pressure vessel is opened and the contents are stripped of toluene under reduced pressure. The residue is recrystallized to yield N-(4-chlorophenyl)-N'-trifluoromethyl urea.

reactant | 4-chloroaniline | 0.5 mol, 64 grams | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | Trifluoromethyl isocyanate | 0.5 mol, 56 grams | FC(F)(F)N=C=O | C2F3NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-chlorophenyl)-N'-trifluoromethyl urea | ClC1=CC=C(C=C1)NC(=O)NC(F)(F)F | C8H6ClF3N2O
